US08629167B2
Sulfuryl chloride (3.0 mL, 37.0 mmol) was added to a solution of 4-fluorobenzo[b]thiophene-7-carbonitrile (1.05 g, 5.93 mmol) in 1,2-dichloroethane (30 mL) at room temperature. The mixture was heated at 60° C. for 24 h and then the solvent was removed and the residue mixed with saturated aq. NaHCO3 solution and extracted with 10% EtOAc in hexanes. These extracts were then washed with saturated aq. NaHCO3 solution, water, brine and dried over Na2SO4. Concentration gave the crude 2,3-dichloro-4-fluoro-2,3-dihydrobenzo[b]thiophene-7-carbonitrile as a brown solid (1.57 g). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.68 (dd, J=4.7, 8.6 Hz, 1H), 7.03 (t, J=8.2 Hz, 1H), 5.82 (s, 1H), 5.74 (s, 1H).

reactant | Sulfuryl chloride | 37.0 mmol, 3.0 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-fluorobenzo[b]thiophene-7-carbonitrile | 5.93 mmol, 1.05 g | FC1=CC=C(C=2SC=CC21)C#N | C9H4FNS
reactant | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 2,3-dichloro-4-fluoro-2,3-dihydrobenzo[b]thiophene-7-carbonitrile | 1.57 g | ClC1C(C2=C(S1)C(=CC=C2F)C#N)Cl | C9H4Cl2FNS
